US08283353B2
3′-fluoro-4′-[(5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile
A solution of 5-methyl-4H-1,2,4-triazol-3-amine (8.9 g) and ethyl 2-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-3-oxohexanoate (25 g) in 1,2,4-trichlorobenzene (120 mL) was stirred at 180° C. for 16 hr. After evaporation of the solvent under reduced pressure, ethyl acetate was added to the obtained residue. The precipitated solid was collected by filtration to give the title compound as a colorless solid (11.8 g, 43%).

reactant | 5-methyl-4H-1,2,4-triazol-3-amine | 8.9 g | CC=1NC(=NN1)N | C3H6N4
reactant | ethyl 2-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-3-oxohexanoate | 25 g | C(#N)C1=C(C=CC=C1)C1=CC(=C(C=C1)CC(C(=O)OCC)C(CCC)=O)F | C22H22FNO3
solvent | 1,2,4-trichlorobenzene | 120 mL | ClC1=C(C=C(C=C1)Cl)Cl | C6H3Cl3
product | 3′-fluoro-4′-[(5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 11.8 g, 43% | FC=1C=C(C=CC1CC=1C(NC=2N(C1CCC)N=CN2)=O)C=2C(=CC=CC2)C#N | C22H18FN5O
